US04992432
To a solution of 8.0 g (0.052 mol) of 2-mercapto-1-phenylethanone in 120 mL of acetonitrile was added 0.3 g (0.052 mol) of powdered potassium carbonate and 10.1 g (0.052 mol) of 3-(4-methoxyphenyl)oxiranecarboxamide. After the mixture was stirred and heated at reflux under nitrogen for 3.5 hours the solvent was removed under reduced pressure. The crude product was chromatographed on silica gel (150 g). The column was eluted with ethyl acetate, fractions 7-13 containing the product were combined and the solvent was removed under reduced pressure. The residue was crystallized from ethyl acetate to give 4.0 g (22%) of rac.-(R,*R*)-α-hydroxy-4-methoxyphenyl- β-[(2-oxo-2 -phenylethyl)thio]benzenepropanamide, mp 132°-134°.

reactant | 2-mercapto-1-phenylethanone | 0.052 mol, 8.0 g | SCC(=O)C1=CC=CC=C1 | C8H8OS
reactant | potassium carbonate | 0.052 mol, 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4-methoxyphenyl)oxiranecarboxamide | 0.052 mol, 10.1 g | COC1=CC=C(C=C1)C1C(O1)C(=O)N | C10H11NO3
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | α-hydroxy-4-methoxyphenyl- β-[(2-oxo-2 -phenylethyl)thio]benzenepropanamide | OC(C(=O)N)C(C1=C(C=CC=C1)C1=CC=C(C=C1)OC)SCC(C1=CC=CC=C1)=O | C24H23NO4S
